US07919519B2
A solution of 5-(phenylthio)benzo[d]oxazole (1.04 g, 4.6 mmol) and conc. HCl (0.97 mL, 11 mmol) under nitrogen in 4.6 mL EtOH in a 50 mL rbf fitted with a water-cooled reflux condensor was placed in a 100° C. bath. After 2 h, the mixture was cooled, concentrated in vacuo and dried to give a yellow solid. The material was sonicated in 10 mL DCM, filtered, rinsing with DCM, and dried to give 2-amino-4-(phenylthio)phenol hydrochloride as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.72 (s, 1H), 8.75 (br. s., 1H), 7.28-7.35 (m, 2H), 7.12-7.25 (m, 5H), 6.99 (d, J=8.0 Hz, 1H), 4.32 (br. s., 2H).

reactant | 5-(phenylthio)benzo[d]oxazole | 4.6 mmol, 1.04 g | C1(=CC=CC=C1)SC=1C=CC2=C(N=CO2)C1 | C13H9NOS
reactant | HCl | 11 mmol, 0.97 mL | Cl | ClH
reactant | water | O | H2O
solvent | EtOH | 4.6 mL | CCO | C2H6O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-4-(phenylthio)phenol hydrochloride | Cl.NC1=C(C=CC(=C1)SC1=CC=CC=C1)O | InChI=1S/C12H11NOS.ClH/c13-11-8-10(6-7-12(11)14)15-9-4-2-1-3-5-9;/h1-8,14H,13H2;1H
